US03996233
a. 4-Chloro-6-(1-methyl)hydrazino-2-methyl-5-nitropyridine-3-carboxylic acid, ethyl ester
27.9 g. of 4,6-dichloro-2-methyl-5-nitropyridine-3-carboxylic acid, ethyl ester (0.1 Mol.) are dissolved in about 100 ml. of methanol. At 50°, 9.2 g. of methylhydrazine are dropped in and the mixture is stirred for 30 minutes. On cooling, 4-chloro-6-(1-methyl)hydrazino-2-methyl-5-nitropyridine-3-carboxylic acid, ethyl ester precipitates, yield: 18 g. (62.2%), m.p. 159°-161° (methanol).

reactant | 4,6-dichloro-2-methyl-5-nitropyridine-3-carboxylic acid, ethyl ester | 0.1 Mol | ClC1=C(C(=NC(=C1[N+](=O)[O-])Cl)C)C(=O)OCC | C9H8Cl2N2O4
reactant | methylhydrazine | CNN | CH6N2
solvent | methanol | CO | CH4O
product | 4-Chloro-6-(1-methyl)hydrazino-2-methyl-5-nitropyridine-3-carboxylic acid, ethyl ester | ClC1=C(C(=NC(=C1[N+](=O)[O-])N(N)C)C)C(=O)OCC | C10H13ClN4O4
